US03957989
2,7-BIS[3-(DIETHYLAMINO)PROPIONYL]XANTHENE DIHYDROCHLORIDE HYDRATE
A mixture of 18.2 g (0.05 mole) of 2,7-bis(3-chloropropionyl)xanthene, 2 g of potassium iodide, 100 ml. of diethylamine and 100 ml. of tetrahydrofuran was allowed to stand for 3 days then filtered. The filtrate was evaporated to dryness leaving a residue which was treated with 10% HCl and filtered. The filtrate was made alkaline, extracted with methylene chloride and treated with ethereal HCl. The resulting precipitate was filtered, recrystallized from methanol-diethyl ether and hydrated in a constant humidity chamber to give the desired product. M.P. 184.5°-185.5°C.

reactant | 2,7-bis(3-chloropropionyl)xanthene | 0.05 mole, 18.2 g | ClCCC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CCCl)=O | C19H16Cl2O3
reactant | potassium iodide | 2 g | [I-].[K+]
reactant | diethylamine | C(C)NCC | C4H11N
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,7-BIS[3-(DIETHYLAMINO)PROPIONYL]XANTHENE DIHYDROCHLORIDE HYDRATE | O.Cl.Cl.C(C)N(CCC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CCN(CC)CC)=O)CC | InChI=1S/C27H36N2O3.2ClH.H2O/c1-5-28(6-2)15-13-24(30)20-9-11-26-22(17-20)19-23-18-21(10-12-27(23)32-26)25(31)14-16-29(7-3)8-4;;;/h9-12,17-18H,5-8,13-16,19H2,1-4H3;2*1H;1H2
